US05977146
3.a) Diethyl(3-nitropyridin-2-yl)malonate
50 g (0.31 mol) of diethyl malonate were added, a little at a time, at not more than 50° C. to a mixture of 7.5 g (0.31 mol) of sodium hydride and 50 ml of dimethylformamide, with ice-cooling. After the mixture had cooled to room temperature (approximately 25° C.), it was treated with g (0.173 mol) of 2-chloro-3-nitropyridine. After approximately 15 hours, the reaction mixture was diluted with water, acidified using acetic acid and extracted using ethyl acetate. The organic phases were combined, washed and dried, and the solvent was removed under reduced pressure. The excess malonic ester was distilled off at elevated temperature and reduced pressure ("high vacuum"). This gave 43 g (66%) of the title compound as a yellow oil (purity approximately 75%).

reactant | diethyl malonate | 0.31 mol, 50 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 0.31 mol, 7.5 g | [H-].[Na+]
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | 2-chloro-3-nitropyridine | 0.173 mol | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Diethyl(3-nitropyridin-2-yl)malonate | C(C)OC(C(C(=O)OCC)C1=NC=CC=C1[N+](=O)[O-])=O | C12H14N2O6
